US05149699
2-Bromo-5-(tert-butyldimethylsilyloxy)methylpyridine
To a stirred mixture of 2-bromo-5-hydroxymethylpyridine (4.7 g, 0.023 mol) and triethylamine (3.4 mL, 0.024 mol) in DMF (30 mL) was added tertbutyldimethylsilyl chloride. After 1 h, the mixture was diluted with ether and washed with water. The ether phase was dried (MgSO4) and concentrated to give 6.8 g (97%) of product as a colorless oil.

reactant | 2-bromo-5-hydroxymethylpyridine | 0.023 mol, 4.7 g | BrC1=NC=C(C=C1)CO | C6H6BrNO
reactant | triethylamine | 0.024 mol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | tertbutyldimethylsilyl chloride | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-Bromo-5-(tert-butyldimethylsilyloxy)methylpyridine | 6.8 g, 97% | BrC1=NC=C(C=C1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
